* top1
.tran 1n 5m
Vin in 0 225
M1 in gate sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 150u
L2 sw2 out 150u
C1 out 0 230u
Rload out 0 0.319
Vgate  gate  0 PULSE(0 225 0 1n 1n 2.85714e-06 1e-05)
Vgate2 gate2 0 PULSE(0 225 5e-06 1n 1n 2.85714e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.probe V(*) I(*)
.end
